US05739152
Compound A: Acetoxymethyl methyl 4-(2',3'-dichlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate
To a stirred mixture of 1,4-dihydro-2,6-dimethyl-4-(2',3'-dichorophenyl)-5-carboxymethyl-3-pyridinecarboxylic acid (0.3 g, 0.83 mmol) and sodium bicarbonate (0.14 g, 1.69 mmol)in DMF (15 ml) under nitrogen atmosphere was added chloromethyl acetate (0.137 g, 1.26 mmol). The reaction mixture was heated at 80° C. for 18 h. Workup by evaporation of solvent and addition of water. Extraction with dichloromethane, the extract was dried over sodium sulfate and concentrated. The resulting oil was subjected to flash chromatography [silica gel, dichloromethane--dichloromethane/methanol (9/1) gradient] to give colorless crystals (0.17 g, 48%) mp. 144.5°-147.6° C. 1H-NMR (CDCl3): 7.30-7.04 (Ar, 3H); 5.97 (s, 1H); 5.73 (d, J=5.5 Hz, 1H); 5.69 (d, J=5.5 Hz, 1H); 5.46 (s, 1H); 3.6 (s, 3H); 2.32 (s, 3H); 2.30 (s, 3H); 2.03 (s, 3H). 13 C-NMR (CDCl3): 169.64; 167.63; 165.81; 147.46; 146.77; 143.85; 132.86; 131.15; 129.83; 128.31; 126.98; 103.97; 101.89; 78.73; 50.93; 38.45; 20.80; 19.86; 19.26.

reactant | 1,4-dihydro-2,6-dimethyl-4-(2',3'-dichorophenyl)-5-carboxymethyl-3-pyridinecarboxylic acid | 0.83 mmol, 0.3 g | CC=1NC(=C(C(C1C(=O)O)C1=C(C(=CC=C1)Cl)Cl)CC(=O)O)C | C16H15Cl2NO4
reactant | sodium bicarbonate | 1.69 mmol, 0.14 g | C([O-])(O)=O.[Na+]
reactant | chloromethyl acetate | 1.26 mmol, 0.137 g | C(C)(=O)OCCl | C3H5ClO2
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Acetoxymethyl methyl 4-(2',3'-dichlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.17 g, 48% | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OCOC(C)=O | C19H19Cl2NO6
